US04468353
A two-liter, four necked flask is charged with 1332 g (9 moles) of orthoformic acid triethyl ester, 198 g (3 moles) of malonic acid dinitrile and 4 g of acetic acid anhydride. With vigorous stirring, the solution is heated to ebullition. At about 110° C. sump temperature, alcohol begins to distil out through the top of the column. During the course of the reaction, approximately 8 g of acetic acid anhydride is fed in continuously, and the heating of the reaction mixture and the reflux flow are so regulated that the temperature at the top of the condenser is between 75° and 79° C. The condensed distillate is collected and consists substantially of ethanol, acetic acid ethyl ester, formic acid ethyl ester and a small amount of orthoformic acid triethyl ester. During the reaction the sump temperature rises slowly to 130 to 140 degrees C. After 2 to 3 hours the reaction has ended. The unreacted orthoformic acid triethyl ester is distilled out through the column and is fed back to the next batch. Then ethoxymethylene malonic acid dinitrile is separated from the remainder through a simple distillation bridge at 0.1 to 0.02 Torr. In this manner, 361 g of ethoxymethylene malonic acid dinitrile is obtained, with a melting point of 64° C. and a purity of better than 99%. This corresponds to a yield of 98.7% with respect to the malonic acid dinitrile charged.

reactant | orthoformic acid triethyl ester | 9 moles, 1332 g | C(C)OC(OCC)OCC | C7H16O3
reactant | malonic acid dinitrile | 3 moles, 198 g | C(C#N)C#N | C3H2N2
catalyst | acetic acid anhydride | 4 g | C(C)(=O)OC(C)=O | C4H6O3
product | ethoxymethylene malonic acid dinitrile | 361 g, yield of 98.7% | CCOC=C(C#N)C#N | C6H6N2O
